US05690858
4.32 g (54.0 mM) of dry pyridine was added to 3.40 g (20.0 mM) of 10-undecene-1-ol, followed by stirring for 10 minutes at 0° C. To the mixture, 3.80 g (20.0 mM) of p-toluenesulfonyl chloride was added, followed by stirring for 4 hours at room temperature. After the reaction, the reaction mixture was acidified with 2M-hydrochloric acid (HCl) and extracted with ether to obtain an extract. The extract was dried with anhydrous sodium sulfate, followed by distilling-off of ether to obtain 6.20 g (19.1 mM) of 10-undecenyl p-toluenesulfonate (Yield: 95.5%).

reactant | 10-undecene-1-ol | 20.0 mM, 3.40 g | C(CCCCCCCCC=C)O | C11H22O
reactant | p-toluenesulfonyl chloride | 20.0 mM, 3.80 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 54.0 mM, 4.32 g | N1=CC=CC=C1 | C5H5N
product | 10-undecenyl p-toluenesulfonate | 19.1 mM, 6.20 g, Yield: 95.5% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCC=C)C | C18H28O3S
